US08044041B2
To a solution of 1,4-dichloro-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (3.3 g, 8.55 mmol) in acetone (100 mL) were added NaI (6.44 g, 42.96 mmol) and HI (few drops). The solution was refluxed for 1 hour then concentrated under vacuum and purified by chromatography (hexanes/EtOAc) to provide 1,4-di-iodo-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (4.01 g, 82.5%) as a colored solid.

reactant | 1,4-dichloro-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 8.55 mmol, 3.3 g | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)Cl)Cl)(F)F | C16H8Cl2F3N3O
reactant | NaI | 42.96 mmol, 6.44 g | [Na+].[I-]
reactant | HI | I | HI
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 1,4-di-iodo-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 4.01 g, 82.5% | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)I)I)(F)F | C16H8F3I2N3O
